* Wurlitzer 200A Preamp — Comprehensive Harmonic Characterization
* ===============================================================
* Maps the harmonic spectrum (H1-H9) across drive levels, frequencies,
* and tremolo states to produce DSP reference targets.
*
* Sweep dimensions:
*   Drive levels: 0.5mV, 2mV, 5mV, 10mV, 50mV, 200mV (pp -> extreme ff)
*   Frequencies:  110 Hz (bass), 440 Hz (mid), 1760 Hz (treble)
*   LDR states:   Rldr=1M (no tremolo, 2.0x gain)
*                 Rldr=19K (tremolo bright, 4.0x gain)
*
* Signal path: Vin -> R-1 (22K) -> preamp -> Rload (100K)
*
* Expected results:
*   - H2 > H3 at all levels (asymmetric Stage 1 clipping)
*   - H2/H1 near-zero at pp (0.5mV), measurable at ff (50-200mV)
*   - Higher gain (trem bright) clips at lower input levels
*   - THD at mf (5mV): ~0.0004% | THD at extreme (200mV): ~0.04%
*
* Run: ngspice -b tb_preamp_clipping.cir

.title Preamp Harmonic Characterization

.include ../models/transistors.lib
.include ../models/diodes.lib
.include ../subcircuits/preamp.cir

* ===============================================================
* Circuit
* ===============================================================

* Supply
Vcc  vcc 0  DC 14.5

* Instantiate preamp
Xpre  in_sig out vcc 0 fb_junct  wurli_preamp

* Input: sine through R-1 (22K)
* Initial values overridden in .control block
Vin  src 0  DC 0 SIN(0 5M 440 0 0)
R1   src in_sig  22K

* LDR path (overridden in .control block)
Rldr fb_junct 0  1MEG

* Load resistor (volume pot + next stage input impedance)
Rload out 0  100K

* ===============================================================
* Scripted sweep using ngspice .control block
* ===============================================================

.control

set filetype = ascii

echo "================================================================="
echo "Wurlitzer 200A Preamp Harmonic Characterization"
echo "================================================================="
echo ""

* Nested sweep: LDR state -> frequency -> amplitude
foreach rldr_val 1000000 19000
  alter rldr = $rldr_val

  if $rldr_val = 1000000
    echo "--- LDR = 1M (no tremolo, ~2.0x gain) ---"
  else
    echo "--- LDR = 19K (tremolo bright, ~4.0x gain) ---"
  end

  foreach freq_val 110 440 1760

    echo ""
    echo "  Frequency: $freq_val Hz, Rldr: $rldr_val"
    echo "  -----------------------------------------------"

    foreach amp_val 0.0005 0.002 0.005 0.01 0.05 0.2
      * Alter source waveform
      alter @vin[sin] = [ 0 $amp_val $freq_val 0 0 ]

      * Run transient: 200ms total, record from 100ms, 0.5us step
      tran 0.5u 200m 100m 0.5u

      * Fourier analysis: 9 harmonics on output and Stage 1 collector
      fourier $freq_val v(out)
      fourier $freq_val v(xpre.coll1)

      * Measurements: output swing
      meas tran out_max MAX v(out) from=100m to=200m
      meas tran out_min MIN v(out) from=100m to=200m
      meas tran out_pp PP v(out) from=100m to=200m
      meas tran out_dc AVG v(out) from=100m to=200m

      * Measurements: Stage 1 collector swing (clips toward Vce_sat)
      meas tran coll1_max MAX v(xpre.coll1) from=100m to=200m
      meas tran coll1_min MIN v(xpre.coll1) from=100m to=200m

      * Measurements: Stage 1 emitter swing
      meas tran emit1_max MAX v(xpre.emit1) from=100m to=200m
      meas tran emit1_min MIN v(xpre.emit1) from=100m to=200m

      * Measurements: Stage 2 collector swing
      meas tran coll2_max MAX v(xpre.coll2) from=100m to=200m
      meas tran coll2_min MIN v(xpre.coll2) from=100m to=200m

      * Measurements: input swing (for gain calculation)
      meas tran in_pp PP v(in_sig) from=100m to=200m

      destroy all
    end
  end
end

echo ""
echo "================================================================="
echo "Characterization complete."
echo "================================================================="

quit

.endc

.end
